US07244740B2
To a solution of 1-[8-chloro-2-(3-methoxyphenyl)imidazo[1,2-α]pyridin-3-yl]-2-propyn-1-ol (870 mg, 2.78 mmol) in dichloromethane (150 mL) was added manganese dioxide (9.6 g, 111 mmol) and the resulting suspension was stirred at room temperature for 1.5 hours. The mixture was filtered through Celite. The filtrate was concentrated in vacuo to give 1-[8-chloro-2-(3-methoxyphenyl)imidazo[1,2-α]pyridin-3-yl]-2-propyn-1-one (680 mg, 78%) as a golden foam. 1H NMR (CDCl3): δ 9.66 (d, 1 H), 7.65 (d, 1 H), 7.34 (t, 1 H), 7.28–7.22 (m, 2 H), 7.10 (t, 1 H), 7.02 (m, 1 H), 3.86 (s, 3 H), 2.86 (s, 1 H); MS m/z 311 (M+1).

reactant | 1-[8-chloro-2-(3-methoxyphenyl)imidazo[1,2-α]pyridin-3-yl]-2-propyn-1-ol | 2.78 mmol, 870 mg | ClC=1C=2N(C=CC1)C(=C(N2)C2=CC(=CC=C2)OC)C(C#C)O | C17H13ClN2O2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 111 mmol, 9.6 g | [O-2].[O-2].[Mn+4]
product | 1-[8-chloro-2-(3-methoxyphenyl)imidazo[1,2-α]pyridin-3-yl]-2-propyn-1-one | 680 mg, 78% | ClC=1C=2N(C=CC1)C(=C(N2)C2=CC(=CC=C2)OC)C(C#C)=O | C17H11ClN2O2
